US08895544B2
(2-{6-[5-Fluoro-4-hydroxy-2-(2,2,2-trifluoro-ethyl)-pheny]-1H-indazol-3-yl}-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl)-(5-piperidin-1-yl-pyrazin-2-yl)-methanone diethylamine salt
The title compound was prepared from 5-piperidin-1-yl-pyrazine-2-carboxylic acid (Preparation 44, 35 mg, 168 μmol) and 2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol (Preparation 39, 100 mg, 168 μmol) using the method of Example 8. The crude material was purified by HPLC Method A to afford 29.0 mg of the title compound as the diethylamine salt.

reactant | 5-piperidin-1-yl-pyrazine-2-carboxylic acid | 168 μmol, 35 mg | N1(CCCCC1)C=1N=CC(=NC1)C(=O)O | C10H13N3O2
reactant | 2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol | 168 μmol, 100 mg | FC1=C(C=C(C(=C1)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1)CC(F)(F)F)O | C21H17F4N5O
product | (2-{6-[5-Fluoro-4-hydroxy-2-(2,2,2-trifluoro-ethyl)-pheny]-1H-indazol-3-yl}-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl)-(5-piperidin-1-yl-pyrazin-2-yl)-methanone diethylamine salt | 29.0 mg | C(C)NCC.FC=1C(=CC(=C(C1)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CN(CC2)C(=O)C2=NC=C(N=C2)N2CCCCC2)N1)CC(F)(F)F)O | InChI=1S/C31H28F4N8O2.C4H11N/c32-21-12-20(18(11-26(21)44)13-31(33,34)35)17-4-5-19-23(10-17)40-41-28(19)29-38-22-6-9-43(16-25(22)39-29)30(45)24-14-37-27(15-36-24)42-7-2-1-3-8-42;1-3-5-4-2/h4-5,10-12,14-15,44H,1-3,6-9,13,16H2,(H,38,39)(H,40,41);5H,3-4H2,1-2H3
